US04737495
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]methylamine-hydrochloride
First, 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane (5.9 g, 0.020 mol) and methylamine (14 g, 0.45 mol) are heated to 130° C. for 1 hour in a sealed tube. Then, the cooled reaction product is taken up in semi-concentrated sodium hydroxide solution and extracted with methylene chloride. After the extract has been dried and concentrated, the hydrochloride is precipitated from acetone/ether with ethereal hydrochloric acid.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | 0.020 mol, 5.9 g | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | methylamine | 0.45 mol, 14 g | CN | CH5N
solvent | sodium hydroxide | [OH-].[Na+]
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]methylamine-hydrochloride | Cl.COC1=CC2=C(CC(N(CC2)CCCNC)=O)C=C1OC | InChI=1S/C16H24N2O3.ClH/c1-17-6-4-7-18-8-5-12-9-14(20-2)15(21-3)10-13(12)11-16(18)19;/h9-10,17H,4-8,11H2,1-3H3;1H
